US05604234
4-Nitrophenylcarbamoylglycine 4-methoxybenzyl ester
The HCl salt of glycine 4-methoxybenzyl ester (1 g, 4.3 mmol) to was cooled to 0° C. and 7 mL of pyridine was added. After 10 minutes at 0° C., 4-nitrophenylchloroformate (980 mg, ~1.15 equivalents) was added over 5 minutes. The reaction mixture was stirred at 0° C. for 5 minutes and then allowed to warm to room temperature. After 1.5 hours at room temperature, the reaction mixture was diluted with ether and washed with cold 0.5N HCl and brine. The organic layer was dried over MgSO4 and concentrated under reduced pressure to give 1.5 g of crude product.

reactant | HCl | Cl | ClH
reactant | glycine 4-methoxybenzyl ester | 4.3 mmol, 1 g | COC1=CC=C(COC(CN)=O)C=C1 | C10H13NO3
reactant | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylchloroformate | 980 mg, ~1.15 equivalents | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | ether | CCOCC | C4H10O
product | 4-Nitrophenylcarbamoylglycine 4-methoxybenzyl ester | 1.5 g | COC1=CC=C(COC(CNC(NC2=CC=C(C=C2)[N+](=O)[O-])=O)=O)C=C1 | C17H17N3O6
